US08022222B2
Ethyl 5-(2-(3-(1-(tert-butoxycarbonyl)piperidin-4-yl)-1,2,4-thiadiazol-5-ylamino)-5-bromopyridin-4-yloxy)-4,6-dimethylnicotinate (0.050 g, 0.08 mmol) was dissolved in EtOH (2 mL). NaOH (1N in H2O, 0.28 ml, 0.28 mmol) was added. The reaction stirred at 60° C. for 1 hour. The solution was cooled and concentrated. The material was acidified with saturated NH4Cl solution and extracted with dichloromethane. The organic layer was washed with water, dried and concentrated to give 5-(2-(3-(1-(tert-butoxycarbonyl)piperidin-4-yl)-1,2,4-thiadiazol-5-ylamino)-5-bromopyridin-4-yloxy)-4,6-dimethylnicotinic acid (0.012 g, 25% yield) as an off white solid. 1H NMR (400 MHz, DMSO-d6) δ 1.39 (s, 9H), 1.52-1.55 (m, 2H), 1.89-1.93 (m, 2H), 2.34 (s, 6H), 2.84-2.93 (m, 3H), 3.90-3.94 (m, 2H), 6.20 (s, 1H), 8.62 (s, 1H), 8.89 (s, 1H), 11.69 (s, 1H), 13.09 (s, 1H).

reactant | Ethyl 5-(2-(3-(1-(tert-butoxycarbonyl)piperidin-4-yl)-1,2,4-thiadiazol-5-ylamino)-5-bromopyridin-4-yloxy)-4,6-dimethylnicotinate | 0.08 mmol, 0.050 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NSC(=N1)NC1=NC=C(C(=C1)OC=1C(=NC=C(C(=O)OCC)C1C)C)Br | C27H33BrN6O5S
reactant | NaOH | 0.28 mmol, 1N, 0.28 ml | [OH-].[Na+]
solvent | EtOH | 2 mL | CCO | C2H6O
product | 5-(2-(3-(1-(tert-butoxycarbonyl)piperidin-4-yl)-1,2,4-thiadiazol-5-ylamino)-5-bromopyridin-4-yloxy)-4,6-dimethylnicotinic acid | 0.012 g, 25% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NSC(=N1)NC1=NC=C(C(=C1)OC=1C(=NC=C(C(=O)O)C1C)C)Br | C25H29BrN6O5S
